US05212320
To a solution of ethyl 3-[3-[3-[bis(4-isobutylphenyl)methylamino]benzoyl]indol-1-yl]propionate (507 mg) in a mixture of 1,4-dioxane (8 ml) and methanol (2 ml) was added 1N aqueous sodium hydroxide (2 ml), and the mixture was stirred at 25° C. for 5 hours. After evaporation of the organic solvent, the residue was acidified (pH 2) with 1N hydrochloric acid, and extracted with ethyl acetate. The extract was washed with water and dried over magnesium sulfate. After evaporation of the solvent, the residue was chromatographed on silica gel (20 g) eluting with chloroform to give 3-[3-[3-[bis(4-isobutylphenyl)methylamino]benzoyl]indol-1-yl]propionic acid 375 mg) as an oil.

reactant | ethyl 3-[3-[3-[bis(4-isobutylphenyl)methylamino]benzoyl]indol-1-yl]propionate | 507 mg | C(C(C)C)C1=CC=C(C=C1)C(C1=CC=C(C=C1)CC(C)C)NC=1C=C(C(=O)C2=CN(C3=CC=CC=C23)CCC(=O)OCC)C=CC1 | C41H46N2O3
reactant | sodium hydroxide | 1N, 2 ml | [OH-].[Na+]
solvent | 1,4-dioxane | 8 ml | O1CCOCC1 | C4H8O2
solvent | methanol | 2 ml | CO | CH4O
product | 3-[3-[3-[bis(4-isobutylphenyl)methylamino]benzoyl]indol-1-yl]propionic acid | 375 mg | C(C(C)C)C1=CC=C(C=C1)C(C1=CC=C(C=C1)CC(C)C)NC=1C=C(C(=O)C2=CN(C3=CC=CC=C23)CCC(=O)O)C=CC1 | C39H42N2O3
